US04618627
To a mixture of 15 ml of methylene chloride and 1.2 ml of pyridine was gradually added 2 g of chromic anhydride under cooling to 0° C. to -5° C. and after stirring the mixture for 10 minutes at 0° to -3° C., a solution of 0.9 g of 3,4-dibenzyloxyphenyl-2-undecanol in 3 ml of methylene chloride was added to the mixture. After further stirring the mixture for 20 minutes at 0° to 10° C., the supernatent methylene chloride solution was concentrated under reduced pressure. The residue was applied to silica gel column chromatography and eluted with toluene to provide 0.8 g of 1-(3,4-dibenzyloxyphenyl)-2-undecanone.

reactant | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dibenzyloxyphenyl-2-undecanol | 0.9 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CC(CCCCCCCCC)O | C31H40O3
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-(3,4-dibenzyloxyphenyl)-2-undecanone | 0.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CC(CCCCCCCCC)=O | C31H38O3
